US04312876
Trans-1-ethoxycarbonyl-4-(3-methoxyphenoxy)-3-phenylpiperidine
A mixture of 0.45 g of trans-4-(3-methoxyphenoxy)-1-methyl-3-phenylpiperidine, 0.31 g of anhydrous potassium carbonate, 0.22 ml of ethyl chloroformate and 4 ml of anhydrous benzene is stirred for a few minutes at room temperature, then refluxed overnight. Another 0.11 ml of ethyl chloroformate is added, the mixture is refluxed for another 4 hours, then cooled and partitioned between 25 ml of ether and 25 ml of water. The aqueous phase is extracted with another 25 ml of ether, and the combined ether extracts are washed with 2 N hydrochloric acid (2×10 ml), saturated sodium chloride solution (25 ml), dried over anhydrous sodium sulfate and concentrated in vacuo to afford 0.37 g of product as a yellow oil.

reactant | trans-4-(3-methoxyphenoxy)-1-methyl-3-phenylpiperidine | 0.45 g | COC=1C=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=CC1 | C19H23NO2
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.22 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 0.11 ml | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | Trans-1-ethoxycarbonyl-4-(3-methoxyphenoxy)-3-phenylpiperidine | 0.37 g | C(C)OC(=O)N1C[C@H]([C@@H](CC1)OC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C21H25NO4
